US04705785
Methyl 2,3,4,7,-tetrahydro-5-methyl-7-(2-nitrophenyl)-1,1-dioxothieno [3,2-b]pyridine-6-carboxylate.
A mixture of methyl 2,3,3a,4,7,7a-hexahydro-3a-hydroxy-5-methyl-7-(2-nitrophenyl)-1,1-dioxothieno[3,2-b]pyridine-6-carboxylate (2.5 g, 0.0065 moles) and toluene (60 mL) was refluxed for 24 hours. The solvent was removed in vacuo and the resulting solid was recrystallized from ethanol. The crystals were washed with diethyl ether 2× and dried at 65° C. under high vacuum for 48 hours. This gave 1.78 g product; mp 215°-217° C.

reactant | methyl 2,3,3a,4,7,7a-hexahydro-3a-hydroxy-5-methyl-7-(2-nitrophenyl)-1,1-dioxothieno[3,2-b]pyridine-6-carboxylate | 0.0065 moles, 2.5 g | OC12NC(=C(C(C1S(CC2)(=O)=O)C2=C(C=CC=C2)[N+](=O)[O-])C(=O)OC)C | C16H18N2O7S
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 2,3,4,7,-tetrahydro-5-methyl-7-(2-nitrophenyl)-1,1-dioxothieno [3,2-b]pyridine-6-carboxylate | CC1=C(C(C2=C(N1)CCS2(=O)=O)C2=C(C=CC=C2)[N+](=O)[O-])C(=O)OC | C16H16N2O6S
